US08754229B2
To a solution of methyl 4-amino-6′-cyclopropyl-3-fluoro-5-methoxy-[2,3′-bipyridine]-6-carboxylate (100 mg, 0.315 mmol) in THF (1.00 mL), MeOH (1.000 mL), and Water (0.500 mL), lithium hydroxide hydrate (65 mg, 1.549 mmol) was added as a solid. The reaction was allowed to stir at room temperature for 18 hrs. The reaction solution was then concentrated under vacuum to dryness. The resulting solid was suspended in H2O and the pH was adjusted to 4.0, forming a ppt. The suspension was extracted with EtOAc (3×25 mL). The combined organic layers were dried over MgSO4, filtered and concentrated under vacuum to yield 4-amino-6′-cyclopropyl-3-fluoro-5-methoxy-[2,3′-bipyridine]-6-carboxylic acid (50.0 mg, 0.165 mmol, 52.3% yield). ESIMS for m/z 304 (M+H)+. 1H NMR (400 MHz, DMSO-d6) δ 0.92-1.06 (m, 4H), 2.17 (tt, J=7.8, 5.1 Hz, 1H), 3.78 (s, 3H), 6.49 (s, 2H), 7.42 (dd, J=8.3, 0.9 Hz, 1H), 8.05 (ddd, J=8.2, 2.2, 1.1 Hz, 1H), 8.81 (t, J=2.0 Hz, 1H), 13.03 (s, 1H). 19F NMR (376 MHz, DMSO-d6) δ −141.73.

reactant | methyl 4-amino-6′-cyclopropyl-3-fluoro-5-methoxy-[2,3′-bipyridine]-6-carboxylate | 0.315 mmol, 100 mg | NC1=C(C(=NC(=C1OC)C(=O)OC)C=1C=NC(=CC1)C1CC1)F | C16H16FN3O3
reactant | Water | 0.500 mL | O | H2O
reactant | lithium hydroxide hydrate | 1.549 mmol, 65 mg | O.[OH-].[Li+]
solvent | THF | 1.00 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1.000 mL | CO | CH4O
product | 4-amino-6′-cyclopropyl-3-fluoro-5-methoxy-[2,3′-bipyridine]-6-carboxylic acid | 0.165 mmol, 50.0 mg, 52.3% yield | NC1=C(C(=NC(=C1OC)C(=O)O)C=1C=NC(=CC1)C1CC1)F | C15H14FN3O3
